US05710152
Preparation of 4-[2-(4-oxo-1-phenyl-1,2,3,4-tetrahydroquinazolin-3-yl)ethoxy]benzaldehyde (Compound 4K)
1.2 g of 2-(4-oxo-1-phenyl-1,2,3,4-tetrahydroquinazolin-3-yl)ethanol was dissolved in 8 ml of dimethyl sulfoxide. 0.27 g of 60% sodium hydride (oil) was added under ice cooling and the mixture was stirred for one hour at 40° C. Then, 0.84 g of p-fluorobenzaldehyde in 8 ml of benzene was gradually added dropwise and the mixture was allowed to stand room temperature while stirring for one hour. The reaction mixture was processed in the same manner as in the Preparation Example 1 to obtain 0.84 g (yield 50.4%) of the title compound as colorless crystals.

reactant | 2-(4-oxo-1-phenyl-1,2,3,4-tetrahydroquinazolin-3-yl)ethanol | 1.2 g | O=C1N(CN(C2=CC=CC=C12)C1=CC=CC=C1)CCO | C16H16N2O2
reactant | sodium hydride | 0.27 g | [H-].[Na+]
reactant | p-fluorobenzaldehyde | 0.84 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
product | 4-[2-(4-oxo-1-phenyl-1,2,3,4-tetrahydroquinazolin-3-yl)ethoxy]benzaldehyde | 0.84 g, yield 50.4% | O=C1N(CN(C2=CC=CC=C12)C1=CC=CC=C1)CCOC1=CC=C(C=O)C=C1 | C23H20N2O3
